US04244868
7-Chloro-5-(2-fluorophenyl)-2-[1-[(hydroxyimino)methyl]pyrrolidinyl]-3H-1,4-benzodiazepine
Reaction of 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine with pyrrolidine in tetrahydrofuran overnight at room temperature yielded yellowish crystals. For analysis a sample was recyrstallized from tetrahydrofuran/ethanol, mp 175°-178° C.

reactant | 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine | ClC=1C=CC2=C(C(=NCC(=N2)C(=NO)[N+](=O)[O-])C2=C(C=CC=C2)F)C1 | C16H10ClFN4O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | tetrahydrofuran ethanol | O1CCCC1.C(C)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Chloro-5-(2-fluorophenyl)-2-[1-[(hydroxyimino)methyl]pyrrolidinyl]-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)C2N(CCC2)C=NO)C2=C(C=CC=C2)F)C1 | C20H18ClFN4O
